** sch_path: /foss/designs/my_design/projects/montecarlo/xschem_ngspice/dactut/mcdactut/mcdactut.sch
**.subckt mcdactut
B1 GND net1 I={Iref}*v(b0)
XR1 net1 GND gaussres nom=10k
Vb0 b0 GND 1
XR2 net2 net1 gaussres nom=10k
B2 GND net2 I={Iref}*v(b1)
XR3 net2 GND gaussres nom=20k
Vb1 b1 GND 1
XR4 net3 net2 gaussres nom=10k
B3 GND net3 I={Iref}*v(b2)
XR5 net3 GND gaussres nom=20k
Vb2 b2 GND 1
XR6 net4 net3 gaussres nom=10k
B4 GND net4 I={Iref}*v(b3)
XR7 net4 GND gaussres nom=20k
Vb3 b3 GND 1
XR8 net5 net4 gaussres nom=10k
B5 GND net5 I={Iref}*v(b4)
XR9 net5 GND gaussres nom=20k
Vb4 b4 GND 1
XR10 net6 net5 gaussres nom=10k
B6 GND net6 I={Iref}*v(b5)
XR11 net6 GND gaussres nom=20k
Vb5 b5 GND 1
XR12 Vout net6 gaussres nom=10k
B7 GND Vout I={Iref}*v(b6)
XR13 Vout GND gaussres nom=10k
Vb6 b6 GND 1
**** begin user architecture code



.param MC_SWITCH=1.0

.subckt gaussres pos neg
.param nom=1k cv=0.005
R1 pos neg {nom + MC_SWITCH*AGAUSS(0,1,1)*cv*nom}
.ends

.option wnflag=1

.param Iref=100u

.control
  set wr_singlescale
  let runs = 10
  let run = 1
  while run <= runs
    set appendwrite = FALSE
    set wr_vecnames
    let code = 0
    while code < 128
      if code eq 0
        let b0 = 0
      else
        let b0 = code % 2
      end

      if floor(code / 2) eq 0
        let b1 = 0
      else
        let b1 = floor(code / 2) % 2
      end

      if floor(code / 4) eq 0
        let b2 = 0
      else
        let b2 = floor(code / 4) % 2
      end

      if floor(code / 8) eq 0
        let b3 = 0
      else
        let b3 = floor(code / 8) % 2
      end

      if floor(code / 16) eq 0
        let b4 = 0
      else
        let b4 = floor(code / 16) % 2
      end

      if floor(code / 32) eq 0
        let b5 = 0
      else
        let b5 = floor(code / 32) % 2
      end

      if floor(code / 64) eq 0
        let b6 = 0
      else
        let b6 = floor(code / 64) % 2
      end

      alter vb0 $&b0
      alter vb1 $&b1
      alter vb2 $&b2
      alter vb3 $&b3
      alter vb4 $&b4
      alter vb5 $&b5
      alter vb6 $&b6
      save all
      op
      wrdata /foss/designs/my_design/projects/montecarlo/xschem_ngspice/dactut/mcdactut/mcdactut{$&run}.txt v(b0) v(b1) v(b2) v(b3) v(b4) v(b5) v(b6) v(Vout)/1e4 v(Vout)
      if code eq 0
        set appendwrite
        set wr_vecnames = FALSE
      end
      let code = code + 1
    end
    reset
    let run = run + 1
  end
  * quit
.endc






**** end user architecture code
**.ends
.GLOBAL GND
.end
